US03951958
Two grams of rac.-1,3,17-triacetoxy-8α-estra-1,3,5(10),16-tetraene is agitated in 40 ml. of glacial acetic acid and 2 ml. of acetic anhydride with 5.5 g. of lead tetraacetate for 15 hours at room temperature. The mixture is evaporated in a forced circulation evaporator. The residue is taken up in ethyl acetate and washed neutral with saturated sodium chloride solution. By preparative thin-layer chromatography, minor amounts of starting material are separated. After elution with acetone, the mixture is afteracetylated with acetic anhydride and pyridine. After working up the reaction mixture and recrsytallization from methylene chloride/isopropyl ether, 700 mg. of rac.-1,3,16β-triacetoxy-8α-estra-1,3,5(10)-trien-17-one is obtained.

reactant | rac.-1,3,17-triacetoxy-8α-estra-1,3,5(10),16-tetraene | Two grams | C(C)(=O)OC1=CC(=CC=2CC[C@@H]3[C@@H]4CC=C([C@@]4(C)CC[C@@H]3C12)OC(C)=O)OC(C)=O | C24H28O6
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | lead tetraacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | rac.-1,3,16β-triacetoxy-8α-estra-1,3,5(10)-trien-17-one | C(C)(=O)OC1=CC(=CC=2CC[C@@H]3[C@@H]4C[C@@H](C([C@@]4(C)CC[C@@H]3C12)=O)OC(C)=O)OC(C)=O | C24H28O7
